US09260425B2
To a microwave tube was added 5-bromo-3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (300 mg, 0.74 mmol), 2-fluorophenylboronic acid (134 mg, 0.96 mmol), Pd(dppf)Cl2(60 mg, 0.07 mmol), sodium carbonate (314 mg, 2.96 mmol), 1,2-dimethoxyethane (3 mL), ethanol (0.3 mL) and water (0.3 mL). The tube was flushed with nitrogen for 2 minutes and heated in a Biotage microwave at 145° C. for 1 hour. The solvent was distilled off and the crude product was purified via flash chromatography eluting with 20% to 95% ethyl acetate in petroleum to afford 5-bromo-3-(2-fluorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine as a yellow oil (105 mg, 38%). ESI MS m/z=377 (M+1).

reactant | 5-bromo-3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 0.74 mmol, 300 mg | BrC=1C=C2C(=CN1)N(N=C2I)C2OCCCC2 | C11H11BrIN3O
reactant | 2-fluorophenylboronic acid | 0.96 mmol, 134 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2.96 mmol, 314 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
catalyst | Pd(dppf)Cl2 | 0.07 mmol, 60 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.3 mL | O | H2O
solvent | ethanol | 0.3 mL | C(C)O | C2H6O
product | 5-bromo-3-(2-fluorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 105 mg, 38% | BrC=1C=C2C(=CN1)N(N=C2C2=C(C=CC=C2)F)C2OCCCC2 | C17H15BrFN3O
